US04081474
Preparation of 3'-hydroxybromoacetanilide
m-Aminophenol, 66.5 g. (0.61 mole), is dissolved in 500 ml. of a 50/50 (v/v) mixture of glacial acetic acid and saturated sodium acetate solution. The mixture is cooled to approximately 10° C. and 200 g. (0.99 mole) of bromoacetyl bromide is added dropwise. The temperature is maintained between 15° and 20° C. When addition is complete, the mixture is stirred while cooling until the temperature is about 5° C. The product is filtered off, washed successively with cold water, saturated sodium bicarbonate solution and finally two portions of water. The product is dried under vacuum. The yield of the title compound is 121 g. (86 percent of theory), m.p. 167°-170° C.

reactant | m-Aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | bromoacetyl bromide | 0.99 mole | BrCC(=O)Br | C2H2Br2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3'-hydroxybromoacetanilide | OC=1C=C(NC(CBr)=O)C=CC1 | C8H8BrNO2
